US07476742B2
Preparation of ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetic acid
To a solution of ethyl ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate (40 mg, 0.09 mmol) in ethanol (1.0 mL) and THF (1.0 mL) was added LiOH (39 mg) followed by water (1 mL). The reaction mixture was then stirred at rt for 4 h. The reaction mixture was then acidified to pH 5-6 and concentrated under reduced pressure. The residue redissolved in methanol, and filtered through a C8-Silica plug. The filtrate was then purified by preparative HPLC using with 10 to 70% acetonitrile in water to afford 27.2 mg (72%) of desired product. 1H NMR (CD2Cl2) δ 7.97 (s, 1H), 7.79 (d, 1H), 7.42 (d, 1H), 7.35 (t, 1H), 7.02 (d, 1H), 6.62-6.76 (m, 3H), 5.80 (d, 1H), 5.27 (d, 1H), 4.14 (t, 2H), 3.43 (qr, 1H), 2.90 (t, 2H), 2.66-2.83 (m, 3H), 2.29-2.43 (m, 5H), 1.67-1.72 (m, 1H). EI-LCMS(rel abundance), RT=3.95, m/z 404.4 (MH+, 72%).

reactant | ethyl ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate | 0.09 mmol, 40 mg | CC1=C(N=C(O1)C1=CC(=CC=C1)C=C)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC | C27H29NO4
reactant | LiOH | 39 mg | [Li+].[OH-]
reactant | water | 1 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetic acid | 27.2 mg, 72% | CC1=C(N=C(O1)C1=CC(=CC=C1)C=C)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)O | C25H25NO4
